US04200641
To a stirred mixture of 50 parts of 6-chloro-2-cyclohexyl-1H-benzimidazole-1-propanol in 375 parts of trichloromethane are added dropwise 60 parts of sulfinyl chloride (exothermic reaction). Upon completion, stirring is continued for 2 hours at reflux temperature. The reaction mixture is evaporated and the semi-solid residue is dissolved in hot water. The solution is stirred with activated charcoal. The latter is filtered hot over hyflo and the filtrate is stirred in an ice-bath. The precipitated product is filtered off and dried, yielding 6-chloro-1-(3-chloropropyl)-2-cyclohexyl-1H-benzimidazole hydrochloride; mp. 227.5° C.

reactant | 6-chloro-2-cyclohexyl-1H-benzimidazole-1-propanol | ClC=1C=CC2=C(N(C(=N2)C2CCCCC2)CCCO)C1 | C16H21ClN2O
reactant | sulfinyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 6-chloro-1-(3-chloropropyl)-2-cyclohexyl-1H-benzimidazole hydrochloride | Cl.ClC=1C=CC2=C(N(C(=N2)C2CCCCC2)CCCCl)C1 | InChI=1S/C16H20Cl2N2.ClH/c17-9-4-10-20-15-11-13(18)7-8-14(15)19-16(20)12-5-2-1-3-6-12;/h7-8,11-12H,1-6,9-10H2;1H
